US07307165B2
Synthesis of N′-(2-chloro-6-cyclopropylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine
Magnesium metal powder (0.27 g, 11.1 mmol) was mixed with iodine (5 mg), heated with a dryer under a nitrogen atmosphere and cooled to room temperature, and anhydrous tetrahydrofuran (15.0 mL) was added thereto. Cyclopropyl bromide (1.33 g, 1.10 mmol), while keeping at 28 to 33° C., was added dropwise to the mixture under stirring at room temperature, and then the mixture was stirred at room temperature for 30 minutes to prepare a pale yellowish gray solution of cyclopropylmagnesium bromide in tetrahydrofuran. Separately, zinc chloride (1.50 g, 11.0 mmol) dried at 180° C. for 4 hours under vacuum was dissolved in anhydrous tetrahydrofuran (10.0 mL) under a nitrogen atmosphere and then the previously prepared solution of cyclopropylmagnesium bromide in tetrahydrofuran was added dropwise thereto with keeping at 0° C. or less with an ice-sodium chloride bath. The mixture was stirred at about −10° C. for 15 minutes, and [1,3-bis(diphenylphosphino)propane]nickel(II) dichloride (0.27 g, 0.50 mmol) was added as powder to the resulting suspension, and then a solution of N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine (2.03 g, 5.00 mmol) dissolved in anhydrous tetrahydrofuran (10.0 mL) was added dropwise thereto. The mixture was stirred at −10° C. for 2 hours, then at room temperature for 16 hours, poured into a saturated saline, adjusted to pH 2 with dilute hydrochloric acid, and extracted 4 times with chloroform. The extracts were combined, dehydrated over anhydrous magnesium sulfate, concentrated under reduced pressure, and the residues were purified by silica gel column chromatography (ethyl acetate:hexane=1:1), whereby 0.64 g (31.5%) of the starting material N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine was recovered and simultaneously the title compound was obtained as pale yellow crystals. The yield was 0.94 g (45.7%).

reactant | Magnesium | [Mg] | Mg
reactant | iodine | 5 mg | II | I2
reactant | Cyclopropyl bromide | 1.10 mmol, 1.33 g | C1(CC1)Br | C3H5Br
reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
reactant | N′-(2,6-dichloroimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | 5.00 mmol, 2.03 g | ClC=1N=C2N(N=C(C=C2)Cl)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C15H21Cl2N5O2S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
catalyst | zinc chloride | 11.0 mmol, 1.50 g | [Cl-].[Zn+2].[Cl-]
catalyst | [1,3-bis(diphenylphosphino)propane]nickel(II) dichloride | 0.50 mmol, 0.27 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | tetrahydrofuran | 15.0 mL | O1CCCC1 | C4H8O
product | N′-(2-chloro-6-cyclopropylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-diisobutylformamidine | ClC=1N=C2N(N=C(C=C2)C2CC2)C1S(=O)(=O)N=CN(CC(C)C)CC(C)C | C18H26ClN5O2S
